US07183277B2
A mixture of 40.0 g (290 mmol) of 4-nitroaniline and 40.0 ml (421 mmol) of 4-chlorobutyronitrile is heated at the boil (about 190° C.) for 30 minutes using a hot-air fan. The mixture is allowed to cool and is digested with ethyl acetate, giving 1-(4-nitrophenyl)pyrrolidin-2-ylideneamine, hydrochloride, as a brown solid, ESI 206.

reactant | 4-nitroaniline | 290 mmol, 40.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | 4-chlorobutyronitrile | 421 mmol, 40.0 ml | ClCCCC#N | C4H6ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-nitrophenyl)pyrrolidin-2-ylideneamine, hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1C(CCC1)=N | InChI=1S/C10H11N3O2.ClH/c11-10-2-1-7-12(10)8-3-5-9(6-4-8)13(14)15;/h3-6,11H,1-2,7H2;1H
